US04075225
To 2-carbamoyl-6,11-dihydro-pyrrolo[2,1-b][3]-benzazepine-11-one (27 g., 0.112 moles) in 300 ml. of 50% sulfuric acid maintained at 50° C., was added slowly 25 g. of sodium nitrite in 75 ml. of water. At the end of the addition, the solid was filtered, washed with water and air-dried to yield 6,11-dihydro-11-oxo-pyrrolo[2,1-b][3]-benzazepine-2-carboxylic acid (24 g., 89%), m.p. 287°-290° C.

reactant | 2-carbamoyl-6,11-dihydro-pyrrolo[2,1-b][3]-benzazepine-11-one | 0.112 moles, 27 g | C(N)(=O)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=O | C14H12N2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 6,11-dihydro-11-oxo-pyrrolo[2,1-b][3]-benzazepine-2-carboxylic acid | 24 g, 89% | O=C1C=2N(CCC3=C1C=CC=C3)C=C(C2)C(=O)O | C14H11NO3
